US08008303B2
3-Bromo-N-[4-(1,1-dioxo-1lambda*6*-thiomorpholin-4-ylethyl)-phenyl]-4-methoxy-benzamide
A mixture of 3-bromo-4-methoxy-benzoic acid (500 mg), 4-(1,1-dioxo-1lambda*6*-thiomorpholin-4-ylmethyl)-phenylamine (519 mg), EDAC (830 mg), HOBT (585 mg) and N-methylmorpholine (712 μl) in DMF (3 ml) was stirred at room temperature for 18 h. The mixture was then diluted with water (30 ml) and the resulting solid collected by filtration and dried (882 mg)

reactant | 3-bromo-4-methoxy-benzoic acid | 500 mg | BrC=1C=C(C(=O)O)C=CC1OC | C8H7BrO3
reactant | 4-(1,1-dioxo-1lambda*6*-thiomorpholin-4-ylmethyl)-phenylamine | 519 mg | O=S1(CCN(CC1)CC1=CC=C(C=C1)N)=O | C11H16N2O2S
reactant | EDAC | 830 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 585 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methylmorpholine | 712 μl | CN1CCOCC1 | C5H11NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | water | 30 ml | O | H2O
product | 3-Bromo-N-[4-(1,1-dioxo-1lambda*6*-thiomorpholin-4-ylethyl)-phenyl]-4-methoxy-benzamide | BrC=1C=C(C(=O)NC2=CC=C(C=C2)CCN2CCS(CC2)(=O)=O)C=CC1OC | C20H23BrN2O4S
